US05116530
4 ml of thionyl chloride was added to 0.57 g (1.93×10-3 ml) of 5-dodecylthiophene-2-carboxylic acid, followed by heat-stirring for 4 hours at 70° C. and removal of excessive thionyl chloride by reduced-pressure distillation to obtain 5-dodecylthiophene-2-carboxylic chloride.

reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-dodecylthiophene-2-carboxylic acid | 1.93×10-3 ml, 0.57 g | C(CCCCCCCCCCC)C1=CC=C(S1)C(=O)O | C17H28O2S
product | 5-dodecylthiophene-2-carboxylic chloride | C(CCCCCCCCCCC)C1=CC=C(S1)C(=O)Cl | C17H27ClOS
